US07544688B2
4-(2,2-Dimethyl-propylamino)-6-(1-methyl-piperidin-2-ylmethoxy)-quinazoline-2-carbonitrile
4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile (0.3 1 mmol), 1-methyl-2-chloromethyl-piperidine hydrochloride (0.41 mmol) and potassium carbonate (7.2 mmol) are stirred in DMF (3 ml) at 80° C. for 8 hours. The solvent is evaporated, the residue is dissolved in water and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with (CH2Cl2/MeOH=9:1) as mobile phase. The product containing fractions are combined and evaporated. A pale oil with Rf=0.54 (CH2Cl2/MeOH=10:1) is obtained.

reactant | 4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile | 1 mmol | CC(CNC1=NC(=NC2=CC=C(C=C12)O)C#N)(C)C | C14H16N4O
reactant | 1-methyl-2-chloromethyl-piperidine hydrochloride | 0.41 mmol | Cl.CN1C(CCCC1)CCl
reactant | potassium carbonate | 7.2 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2,2-Dimethyl-propylamino)-6-(1-methyl-piperidin-2-ylmethoxy)-quinazoline-2-carbonitrile | CC(CNC1=NC(=NC2=CC=C(C=C12)OCC1N(CCCC1)C)C#N)(C)C | C21H29N5O
